US05622954
A stirring solution of 7.0 grams (0.055 mole) of oxalyl chloride in 125 mL of methylene chloride is cooled to -60° C., and a solution of 9.5 grams (0.120 mole) of dimethyl sulfoxide in 25 mL of methylene chloride is added dropwise during a five minute period. Upon completion of addition, the reaction mixture is stirred at -60° C. for about 10 minutes, and then a solution of 9.6 grams (0.050 mole) of 2,2-difluoro-2-(4-chlorophenyl)ethanol in 25 mL of methylene chloride is added dropwise during a five minute period. Upon completion of addition, the reaction mixture is stirred for 15 minutes, and 25.5 grams (0.250 mole) of triethylamine is added while maintaining the reaction mixture temperature at -60° C. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature, and 150 mL of water is added. The mixture is stirred for 10 minutes, and the organic layer is separated. The aqueous layer is washed with 100 mL of methylene chloride. The methylene chloride wash and the organic layer are combined, and the combination is washed with 100 mL of water and then with 100 mL of an aqueous solution saturated with sodium chloride. The organic layer is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding difluoro-4-chlorophenylacetaldehyde.

reactant | oxalyl chloride | 0.055 mole, 7.0 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.120 mole, 9.5 grams | CS(=O)C | C2H6OS
reactant | 2,2-difluoro-2-(4-chlorophenyl)ethanol | 0.050 mole, 9.6 grams | FC(CO)(C1=CC=C(C=C1)Cl)F | C8H7ClF2O
reactant | triethylamine | 0.250 mole, 25.5 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | difluoro-4-chlorophenylacetaldehyde | FC(C=O)(C1=CC=C(C=C1)Cl)F | C8H5ClF2O
